US07320991B2
A mixture of about 500 mg (about 2 mmol) of 5-amino-1-cyclohexyl-5-ethylbarbituric acid available from 5-azido-1-cyclohexyl-5-ethylbarbituric acid as described in Guetschow, M. et al., Synthesis, 1999, 410-414 (incorporated herein by reference) and about 300 mg (about 2 mmol) of phthalic anhydride and about 20 mL of glacial acetic acid was refluxed for about 5 hours. The mixture was cooled to room temperature and the precipitate was filtered off. The precipitate was next washed with H2O and dried to give about 470 mg of 1-cyclohexyl-5-ethyl-5-phthalimidobarbituric acid (a yield of about 61%). The 1-cyclohexyl-5-ethyl-5-phthalimidobarbituric acid had a melting point of about 248 to about 253° C.

reactant | 5-amino-1-cyclohexyl-5-ethylbarbituric acid | about 2 mmol, about 500 mg | NC1(C(NC(N(C1=O)C1CCCCC1)=O)=O)CC | C12H19N3O3
reactant | 5-azido-1-cyclohexyl-5-ethylbarbituric acid | N(=[N+]=[N-])C1(C(NC(N(C1=O)C1CCCCC1)=O)=O)CC | C12H17N5O3
reactant | phthalic anhydride | about 2 mmol, about 300 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | about 20 mL | C(C)(=O)O | C2H4O2
product | 1-cyclohexyl-5-ethyl-5-phthalimidobarbituric acid | about 470 mg, yield of about 61% | C1(CCCCC1)N1C(=O)NC(=O)C(C1=O)(N1C(C=2C(C1=O)=CC=CC2)=O)CC | C20H21N3O5
